US07470710B2
(RS)-1-[2-(4,6-Dichloro-benzofuran-2-ylmethyl)-4-methyl-piperazin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound (107 mg) was prepared from 5-(4-fluoro-phenyl)2-methyl-thiazole-4-carbonyl chloride (241 mg) and 3-(4,6-dichloro-benzofuran-2-ylmethyl)-1-methyl-piperazine, D78 (263 mg) by a procedure similar to that described for Example 1.

reactant | 5-(4-fluoro-phenyl)2-methyl-thiazole-4-carbonyl chloride | 241 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | 3-(4,6-dichloro-benzofuran-2-ylmethyl)-1-methyl-piperazine | ClC1=CC(=CC2=C1C=C(O2)CC2CN(CCN2)C)Cl | C14H16Cl2N2O
product | (RS)-1-[2-(4,6-Dichloro-benzofuran-2-ylmethyl)-4-methyl-piperazin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 107 mg | ClC1=CC(=CC2=C1C=C(O2)CC2N(CCN(C2)C)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)Cl | C25H22Cl2FN3O2S
